US04590201
A refluxing solution of 4-(4-chlorobenzoyl)-3,5-dichlorotoluene (7.19 g, 24.0 mmol) and dibenzoylperoxide (370 mg, 1.53 mmol) in benzene (247 ml) was treated in portions with N-bromosuccinimide (7.53 g, 42.3 mmol). The mixture was refluxed 24 hours, cooled, and filtered. The precipitate was washed once with benzene, and the combined filtrate and washings were evaporated under vacuum. The residue was triturated with diethyl ether and filtered, and the filtrate was evaporated under vacuum. The residue was chromatographed on silica gel (500 g) eluted with 7:3 (v/v) n-hexanedichloromethane using a preparative high-performance liquid chromatograph to provide 3.2 g (35%) of 4-(4-chlorobenzoyl)-3,5-dichlorobenzyl bromide, m.p. 69°-73° C.

reactant | 4-(4-chlorobenzoyl)-3,5-dichlorotoluene | 24.0 mmol, 7.19 g | ClC1=CC=C(C(=O)C2=C(C=C(C=C2Cl)C)Cl)C=C1 | C14H9Cl3O
reactant | dibenzoylperoxide | 1.53 mmol, 370 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 42.3 mmol, 7.53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 247 ml | C1=CC=CC=C1 | C6H6
product | 4-(4-chlorobenzoyl)-3,5-dichlorobenzyl bromide | 3.2 g, 35% | ClC1=CC=C(C(=O)C2=C(C=C(CBr)C=C2Cl)Cl)C=C1 | C14H8BrCl3O
